US05298627
A solution of (4R-cis)-6-(cyanomethyl)-N,N-diethyl-2,2-dimethyl-1,3-dioxane-4-acetamide (10.0 g, 0.037 mol) in methanol (220 mL) containing anhydrous ammonia (3.25 g) is reacted with hydrogen gas in a Parr shaker at 30° C. in a presence of a slurry of Raney nickel A-7000 (4.2 g). After 3 hours, uptake of hydrogen has ceased, the mixture is cooled to 20° C., the atmosphere is vented and exchanged for nitrogen, the slurry is filtered through celite, and concentrated at reduced pressure to give 9.2 g of (4R-cis)-6-(2-aminoethyl)-N,N-diethyl-2,2-dimethyl-1,3-dioxane-4-acetamide as an oil.

reactant | (4R-cis)-6-(cyanomethyl)-N,N-diethyl-2,2-dimethyl-1,3-dioxane-4-acetamide | 0.037 mol, 10.0 g | C(#N)C[C@@H]1C[C@@H](OC(O1)(C)C)CC(=O)N(CC)CC | C14H24N2O3
reactant | ammonia | 3.25 g | N | H3N
reactant | hydrogen | [H][H] | H2
solvent | methanol | 220 mL | CO | CH4O
catalyst | Raney nickel | [Ni] | Ni
product | (4R-cis)-6-(2-aminoethyl)-N,N-diethyl-2,2-dimethyl-1,3-dioxane-4-acetamide | 9.2 g | NCC[C@@H]1C[C@@H](OC(O1)(C)C)CC(=O)N(CC)CC | C14H28N2O3
